US09376441B2
Prepared by Suzuki coupling reaction procedure, as previously described for the synthesis of (R)-4-((R)-1-((3-cyclopropyl-6-(pyridin-4-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one:, using instead 2-(4-(difluoromethoxy)-3-methoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (123.3 mg, 0.411 mmol) as a starting material to afford 50.0 mg (39.8%) of (R)-4-((R)-1-((3-cyclopropyl-6-(4-(difluoromethoxy)-3-methoxyphenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one:. 1H NMR (300 MHz, DMSO-d6) δ 8.28 (s, 1H), 7.88 (s, 1H), 7.81 (d, J=1.5 Hz, 1H), 7.68 (dd, J=1.8, 2.4 Hz, 1H), 7.55 (s, 1H), 7.21 (d, J=8.4 Hz, 1H). 7.07 (t, J=75 Hz, 1H), 5.58-5.50 (m, 1H), 3.92 (s, 3H), 3.72-3.65 (m, 1H), 3.39 (t, J=9.5 Hz, 1H), 3.20 (dd, J=4.8, 6.9 Hz, 1H), 2.88-2.81 (m, 1H), 2.34-2.28 (m, 2H), 1.41 (d, J=5.7 Hz, 3H), 1.11-0.99 (m, 4H), LCMS-ESI+ (m/z): [M+H]+ calcd for C23H24F2N4O4:458.18; found 459.09.

reactant | (R)-4-((R)-1-((3-cyclopropyl-6-(pyridin-4-yl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=NC=C2)O[C@H](C)[C@@H]2CC(NC2)=O | C20H21N5O2
reactant | 2-(4-(difluoromethoxy)-3-methoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.411 mmol, 123.3 mg | FC(OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)OC)F | C14H19BF2O4
product | (R)-4-((R)-1-((3-cyclopropyl-6-(4-(difluoromethoxy)-3-methoxyphenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | 50.0 mg, 39.8% | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC(=C(C=C2)OC(F)F)OC)O[C@H](C)[C@@H]2CC(NC2)=O | C23H24F2N4O4
